US07816371B2
c. (R)-N-Cyclopropyl-3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanamide
(R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid (4 g, 0.01 mol), 1-hydroxybenzotriazole hydrate (2.5 g, 0.016 mol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (3.2 g, 0.016 mol), cyclopropylamine (0.91 g, 0.016 mol) were stirred in methylene chloride (100 mL, 2 mol) at room temperature for 16 hours. The reaction mixture was diluted with CH2Cl2 (200 mL), washed with sat. NaHCO3, dried over MgSO4, filtered, purified via flash chromatography (40 g of silica gel, 0-50% EtOAc/Hexane) and gave a yellow solid. MS m/z 330.3 (M+H)+.

reactant | (R)-3-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoic acid | 0.01 mol, 4 g | CC([C@H](C(=O)O)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C14H14N2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.016 mol, 2.5 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.016 mol, 3.2 g | Cl.CN(CCCN=C=NCC)C
reactant | cyclopropylamine | 0.016 mol, 0.91 g | C1(CC1)N | C3H7N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mol, 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-Cyclopropyl-3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanamide | C1(CC1)NC([C@@H](C(C)C)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)=O | C17H19N3O4
